US04636560
A solution of pyridinium-1-sulfonate (789 mg, 3 eq) and anhydrous dimethylsulfoxide (3.0 ml) was stirred at room temperature under argon. After 15 minutes, a solution of (1S)-[3-hydroxy-2-[[(4-methoxyphenyl)methyl]thio]-1(phenylmethyl)propyl]carbamic acid, 1,1-dimethylethyl ester (690 mg, 1.65 mmol), diisopropylethylamine (1.73 ml, 6 eq) and dry dichloromethane (5.0 ml) was added in one portion. After 15 minutes longer, the reaction was diluted with ethyl acetate and washed with water, 1N hydrochloric acid, 1N sodium bicarbonate, brine and dried over anhydrous magnesium sulfate. Concentration of the filtrate yielded (1S)-[1-[formyl[[(4-methoxyphenyl)methyl]thio]methyl]-2-phenylethyl]carbamic acid, 1,1-dimethylethyl ester as a yellow solid: 610 mg (1.47 mmol); Rf =0.59 (silica gel, benzene:ethyl acetate 4:1).

reactant | dimethylsulfoxide | 3.0 ml | CS(=O)C | C2H6OS
reactant | (1S)-[3-hydroxy-2-[[(4-methoxyphenyl)methyl]thio]-1(phenylmethyl)propyl]carbamic acid, 1,1-dimethylethyl ester | 1.65 mmol, 690 mg | OCC([C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)SCC1=CC=C(C=C1)OC | C23H31NO4S
reactant | diisopropylethylamine | 1.73 ml, 6 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1S)-[1-[formyl[[(4-methoxyphenyl)methyl]thio]methyl]-2-phenylethyl]carbamic acid, 1,1-dimethylethyl ester | C(=O)C([C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O)SCC1=CC=C(C=C1)OC | C23H29NO4S
